US08124701B2
1-Dodecyl-4-acryloyloxymethyl-triazole
Propargyl acrylate (13 g, 0.118 mmoles), dodecyl azide (22.3 g, 0.118 mmoles) and tetrakis(acetonitrile)copper (I) hexafluorophosphate (0.75 g, 2 mmoles) are dissolved in DMF (200 ml) and stirred at room temperature under nitrogen for 24 hours. The reaction mixture is poured into water wherefrom the product precipitated as a white crystalline solid (33.5 g; yield 95%; mp 50-52° C.). 1H NMR (CDCl3, δ ppm) 7.78 (broad, 1H), 6.42 (d, 1H), 6.16 (dd, 1H), 5.82 (d, 1H), 5.30 (s, 2H), 4.32 (t, 2H), 1.92 (t, 2H), 1.28 (m, 20H), 0.88 (t, 3H). 13C NMR (CDCl3, δ ppm) 165.7, 142.4, 131.1, 127.9, 123.5, 57.6, 57.5, 50.2, 31.7, 30.1, 29.4, 29.3, 29.2, 29.1, 28.8, 26.3, 22.4, 13.9.

reactant | Propargyl acrylate | 0.118 mmoles, 13 g | C(C=C)(=O)OCC#C | C6H6O2
reactant | dodecyl azide | 0.118 mmoles, 22.3 g | C(CCCCCCCCCCC)N=[N+]=[N-] | C12H25N3
reactant | water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-Dodecyl-4-acryloyloxymethyl-triazole | yield 95% | C(CCCCCCCCCCC)N1N=NC(=C1)COC(C=C)=O | C18H31N3O2
